* C:\Users\rolando\OneDrive - Imperial College London\EE3\Instrumentation\Coursework 2\complex_Z_meter\spice_sim\schematics\powersupply.asc
V1 N004 0 SINE({Vdc} 2m 100k) Rser=100m
B1 N003 N004 V=white(10e6*time)/100
R1 N003 N001 1k
C1 N001 0 10µ
D1 Vout N001 1N4148
Q1 N003 N002 Vout 0 NPN
R2 N002 N001 100
.model D D
.lib C:\Users\rolando\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\rolando\AppData\Local\LTspice\lib\cmp\standard.bjt
* .step param Vdc list 3.3 5 7.5 10 16 18 25 30 40
.tran 0 5m 0 1n
.param Vdc={mc(Vset, 0.0075)}
* .step param run 1 5 1
.param Vset 15
* Add ferrite bead? Choose diode model?
.backanno
.end
